US07585885B2
(2R,4R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3-trifluoromethoxy-benzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester
Add 95% sodium hydride (0.008 g, 0.33 mmol) over 5 minutes to a solution of (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluorobenzyl)-2,2-dimethyloxazolidin-5-yl]-4-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester (0.101 g, 0.22 mmol) and 1-bromomethyl-3-trifluoromethoxy-benzene (0.054 mL, 0.333 mmol) in N,N-dimethylformamide (1 mL). Stir 1 hour and partition with ethyl acetate and water, wash with saturated aqueous sodium chloride, dry with magnesium sulfate and purify on silica gel with ethyl acetate/hexane mixtures to give the desired compound as a foam (0.141 g, 100%).

reactant | sodium hydride | 0.33 mmol, 0.008 g | [H-].[Na+]
reactant | (2R,4R)-2-[(4S,5S)-3-acetyl-4-(3,5-difluorobenzyl)-2,2-dimethyloxazolidin-5-yl]-4-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester | 0.22 mmol, 0.101 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)O)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C23H32F2N2O5
reactant | 1-bromomethyl-3-trifluoromethoxy-benzene | 0.333 mmol, 0.054 mL | BrCC1=CC(=CC=C1)OC(F)(F)F | C8H6BrF3O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (2R,4R)-2-[(4S,5S)-3-Acetyl-4-(3,5-difluoro-benzyl)-2,2-dimethyl-oxazolidin-5-yl]-4-(3-trifluoromethoxy-benzyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.141 g, 100% | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OCC1=CC(=CC=C1)OC(F)(F)F)[C@@H]1[C@@H](N(C(O1)(C)C)C(C)=O)CC1=CC(=CC(=C1)F)F | C31H37F5N2O6
